US09169203B2
Step 2: Synthesis of 1-(decylamino)-4-(methylsulfinyl)-1-oxobutan-2-yl acetate.
To a solution of 1-(decylamino)-4-(methylthio)-1-oxobutan-2-yl acetate (21.1 g, 63.4 mmol) in methanol (110 mL) at 0° C. was added hydrogen peroxide (30%, 19.43 mL, 190 mmol) and the ice bath was removed. The reaction was allowed to stir for 5.5 hr. The reaction was diluted with water (400 mL) and then extracted with EtOAc (200 mL) to give an emulsion which did not separate after 18 hrs. The emulsion was treated with brine (250 mL) and the layers separated. The aqueous layer was extracted with EtOAc (200 mL) and the combined organic layers were washed with 10% sodium bisulfite. The organic layer was dried over magnesium sulfate, filtered and evaporated to give an orange oil (22.4 g, 100%). m/z 348 (MH+).

reactant | 1-(decylamino)-4-(methylthio)-1-oxobutan-2-yl acetate | 63.4 mmol, 21.1 g | C(C)(=O)OC(C(=O)NCCCCCCCCCC)CCSC | C17H33NO3S
reactant | hydrogen peroxide | 190 mmol, 19.43 mL | OO | H2O2
solvent | methanol | 110 mL | CO | CH4O
product | 1-(decylamino)-4-(methylsulfinyl)-1-oxobutan-2-yl acetate | 22.4 g, 100% | C(C)(=O)OC(C(=O)NCCCCCCCCCC)CCS(=O)C | C17H33NO4S
